 
* Psuedo NMOS Inverter

.include ./t14y_tsmc_025_level3.txt
* m_instance_name drain_node gate_node source_node bulk_substrate_node model_name L=length W=width
m_load vout 0 vdd vdd cmosp l=0.5u w=25u
m_driver vout in 0 0 cmosn l=0.5u w=10u

* v_instance_name posive_node negetive_node value
v_dd vdd 0 5
v_test vtest vout 0
*Vname N1 N2 PULSE(V_initial V_final T_initial_Delay T_rise T_fall PulseWidth_onperiod Period_total)
v_in in 0 PULSE(0 5 0 0.1p 0.1p 2n 4n)

.control
        *.DC SRCname1 START STOP STEP SRCname2 START STOP STEP
	*foreach width 1u 10u 100u
		*alter @m_driver[w] = $width
		*dc v_in 0 5 0.01
		8tran 1p 20n
	*end 
	
	*foreach length 1u 10u 30u
		*alter @m_driver[l] = $length
		*dc v_in 0 5 0.01
		*tran 1p 20n
	*end 
	
	
	foreach width 1u 10u 100u
		alter @m_load[w] = $width
		dc v_in 0 5 0.01
		tran 1p 20n
	end 
	
	*foreach length 1u 10u 20u
		*alter @m_load[l] = $length
		*dc v_in 0 5 0.01
		8tran 1p 20n
	*end

	
	foreach iter 1 2 3  
	
		setplot dc$iter
		plot vout
		hardcopy images/w_load_$iter vout
		
        setplot tran$iter
	plot vout, in
	hardcopy images/w_load_current$iter vout, in
	plot 5*v_test#branch
	hardcopy images/w_load_power$iter 5*v_test#branch
	
	meas tran$iter vmax MAX vout from=2.4n to =3.8n
	meas tran$iter vmin MIN vout from=0.4n to =1.8n

	let v_10 =vmin+ 0.1*(vmax-vmin)
	let v_90 =vmin+ 0.9*(vmax-vmin)
	let v_50 =vmin+ 0.5*(vmax-vmin)

	meas tran$iter trise trig vout val=v_10 rise=1 targ vout val=v_90 rise=1
	meas tran$iter tfall trig vout val=v_90 fall=2 targ vout val=v_10 fall=2

        meas tran$iter tphl trig in val=2.5 rise=2 targ vout val=v_50 fall=2
        meas tran$iter tplh trig in val=2.5 fall=2 targ vout val=v_50 rise=2
        
        let pd=(tphl+tplh)*0.5
        print pd
        meas tran$iter Iavg AVG v_dd#branch from=0.1n to=4n
        let Pavg=-5*Iavg
        print Pavg
        end
.endc
.end
